US04005082
Preparation of 6-chloro-4-(2-ethylidene-1-methylhydrazino)-1H-2,3-benzoxazine
To a solution of 3 g. of 6-chloro-4-(1-methylhydrazino)-1H-2,3-benzoxazine in 180 ml. of anhydrous benzene 1 g. of acetaldehyde in 30 ml. of anhydrous benzene is added. The mixture is allowed to stand for 2 hours, then the solvent is distilled off in vacuo and the residue recrystallized from isopropyl ether. Yield 2.4 g. (71.2%) of 6-chloro-4-(2-ethylidene-1-methylhydrazino)-1H-2,3-benzoxazine; m.p. 111°-112° C.

reactant | 6-chloro-4-(1-methylhydrazino)-1H-2,3-benzoxazine | ClC=1C=CC2=C(C(=NOC2)N(N)C)C1 | C9H10ClN3O
reactant | acetaldehyde | C(C)=O | C2H4O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 1 g | C1=CC=CC=C1 | C6H6
product | 6-chloro-4-(2-ethylidene-1-methylhydrazino)-1H-2,3-benzoxazine | ClC=1C=CC2=C(C(=NOC2)N(N=CC)C)C1 | C11H12ClN3O
